US05521213
3-(4-Fluorophenyl)-2-(4-(methylsulfonyl)phenyl)indole
To phenylhydrazine (50 uL) in toluene-HOAc (2:1, 2 mL) was added 2-(4-fluorophenyl)-1-(4-(methylsulfonyl)phenyl)ethanone (105 mg) (prepared from 4-(methylthio)benzaldehyde and 4-fluorobenzyl chloride by the same method as described in Step 1 of Example 4). After 1 hr at 85° C., the reaction mixture was extracted with EtOAc and HCl. After drying over NaSO4 and evaporation in vacuo the title compound was purified by flash chromatography (67 mg).

reactant | phenylhydrazine | 50 uL | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-(4-fluorophenyl)-1-(4-(methylsulfonyl)phenyl)ethanone | 105 mg | FC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C15H13FO3S
reactant | 4-(methylthio)benzaldehyde | CSC1=CC=C(C=O)C=C1 | C8H8OS
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | toluene HOAc | 2 mL | C1(=CC=CC=C1)C.CC(=O)O
product | 3-(4-Fluorophenyl)-2-(4-(methylsulfonyl)phenyl)indole | FC1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C1=CC=C(C=C1)S(=O)(=O)C | C21H16FNO2S
